US05968962
Step 4: 3-(4-Amino-2-fluorophenyl)-3-methylazetidine
A flame-dried 3-neck 2-L round bottom flask equipped with mechanical stirrer, reflux condenser, and addition funnel was charged with 300 mL tetrahydrofuran and 350 mL 1 M lithium aluminumhydride (0.35 mol) followed by cooling to 0° C. this solution was treated with a solution of 9.85 g 3-Methyl-3-(4-amino-2-fluorophenyl)-2-azetidinone (0.051 mol) in 210 mL THF with gas evolution and a yellow coloration. The cooling bath was removed and the reaction was heated to reflux with the rapid formation of a white precipitate. After 20 hours, the visually unchanged reaction mixture was cooled to room temperature and quenched by the successive addition of 13 mL water, 12 mL 5 M sodium hydroxide, and 47 mL water. The resulting thick gelatinous suspension was diluted with one L ethyl acetate, filtered through a pad of CELITE, concentrated, and high vacuum dried to afford 9.82 g of the title compound as a light orange syrup. 1H NMR (300 MHz, CDCl3) δ6.78 (t, 1H, J=8.5 Hz, aromatic), 6.37 (m, 2H, aromatic), 4.06 (d, 2H, J=8.2 Hz, N--CH2a s), 3.81 (bs, 3H, NHs), 3.58 (d, 2H, J=8.2 Hz, N--CH2b s), 1.65 (s, 3H, CH3).

reactant | lithium | 1 M, 350 mL | [Li] | Li
reactant | 3-Methyl-3-(4-amino-2-fluorophenyl)-2-azetidinone | 0.051 mol, 9.85 g | CC1(C(NC1)=O)C1=C(C=C(C=C1)N)F | C10H11FN2O
solvent | THF | 210 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 3-(4-Amino-2-fluorophenyl)-3-methylazetidine | 9.82 g | NC1=CC(=C(C=C1)C1(CNC1)C)F | C10H13FN2
